US08729110B1
To a solution of 4-(hydroxymethyl)benzoic hydrazide CAS [58855-42-8] (1.4 g, 8.4 mmol) in ethanol (14 mL) were added carbon disulfide (1.12 mL, 18.5 mmol) and triethyl amine (1.3 mL, 9.3 mmol). After heating to reflux for 16 h with stirring, the reaction mixture was cooled to RT and diluted with ethyl acetate. The mixture was washed with 10% HCl solution and brine, dried over magnesium sulfate, and concentrated. Purification of the residue by MPLC (65% ethyl acetate in hexanes) gave 1.62 g of [4-(5-mercapto-1,3,4-oxadiazol-2-yl)phenyl]methanol as a colorless solid. 1H NMR (600 MHz, CD3OD) δ 7.90 (ddd, J=0.59, 2.05, 8.51 Hz, 2H), 7.54 (d, J=7.92 Hz, 2H), 4.68 (s, 2H)

reactant | 4-(hydroxymethyl)benzoic hydrazide | OCC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | carbon disulfide | 18.5 mmol, 1.12 mL | C(=S)=S | CS2
reactant | triethyl amine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 14 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(5-mercapto-1,3,4-oxadiazol-2-yl)phenyl]methanol | 1.62 g | SC1=NN=C(O1)C1=CC=C(C=C1)CO | C9H8N2O2S
